US08802659B2
(2-{2-[5-(trans-4-tert-Butyl-cyclohexyloxy)-2,3-dihydro-indol-1-yl]-2-oxo-ethylamino}-ethyl)-phosphonic acid
To stirring solution of (2-{2-[5-(4-tert-butyl-cyclohexyloxy)-2,3-dihydro-indol-1-yl]-2-oxo-ethylamino}-ethyl)-phosphonic acid diethyl ester (16 mg, 0.03 mmol) in acetonitrile (0.5 mL) was added bromotrimethylsilane (0.5 mL, 4 mmol). The reaction mixture was stirred at 50° C. overnight. After the solvent was concentrated, the residue was purified by HPLC (acetonitrile-water) to give white precipitate product (7.5 mg, yield: 53%). ESI-MS: 439.2 (M+H)+

reactant | (2-{2-[5-(4-tert-butyl-cyclohexyloxy)-2,3-dihydro-indol-1-yl]-2-oxo-ethylamino}-ethyl)-phosphonic acid diethyl ester | 0.03 mmol, 16 mg | C(C)OP(OCC)(=O)CCNCC(=O)N1CCC2=CC(=CC=C12)OC1CCC(CC1)C(C)(C)C | C26H43N2O5P
reactant | bromotrimethylsilane | 4 mmol, 0.5 mL | Br[Si](C)(C)C | C3H9BrSi
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | (2-{2-[5-(trans-4-tert-Butyl-cyclohexyloxy)-2,3-dihydro-indol-1-yl]-2-oxo-ethylamino}-ethyl)-phosphonic acid | 7.5 mg, yield: 53% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2CCN(C2=CC1)C(CNCCP(O)(O)=O)=O | C22H35N2O5P
